US05849911
1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane
Analogously to Example 7, 106 mg (0.56 mmol) of N-methoxycarbonyl-(L)-iso-leucine, 201 mg (1.05 mmol) of EDC and 95 mg (0.7 mmol) of HOBT in 4.6 ml of DMF and 293 μl (2.1 mmol) of TEA are reacted with 0.35 mmol of 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5 (S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane to form the title compound: m.p: 227°-229° C.; HPLC20-100 : tRet =14.5; FAB MS (M+H)+ =697.

reactant | N-methoxycarbonyl-(L)-iso-leucine | 0.56 mmol, 106 mg | COC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C8H15NO4
reactant | EDC | 1.05 mmol, 201 mg
reactant | HOBT | 0.7 mmol, 95 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5 (S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | 0.35 mmol | S1C(=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)N | C27H35N5O4S
solvent | DMF | 4.6 ml | CN(C)C=O | C3H7NO
product | 1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | S1C(=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O | C35H48N6O7S
